US05306728
0.36 g of 5-hydroxymethyl-2-furaldehyde was dissolved in 10 ml of ethyl ether, and under a nitrogen atmosphere, a ethyl ether solution (2 ml) of 0.25 g of phosphorus tribromide was added dropwise at 0° C. After the mixture was stirred at room temperature for 30 minutes, 0.70 g of potassium carbonate and a dimethylformamide solution (15 ml) of 0.62 g of (E)-N-ethyl-6-methoxy-6-methyl-2-hepten-4-ynylamine hydrochloride were added. The mixture was stirred overnight at room temperature, and then worked up in a customary manner. The product was purified by silica gel column chromatography [hexane/ethyl acetate=2/1] to give 0.62 g of (E)-N-ethyl-N-(6-methoxy-6-methyl-2-hepten-4-ynyl)-5-formyl-2-furylmethylamine as a pale yellow oil.

reactant | 5-hydroxymethyl-2-furaldehyde | 0.36 g | OCC1=CC=C(O1)C=O | C6H6O3
reactant | phosphorus tribromide | 0.25 g | P(Br)(Br)Br | Br3P
reactant | potassium carbonate | 0.70 g | C([O-])([O-])=O.[K+].[K+]
reactant | (E)-N-ethyl-6-methoxy-6-methyl-2-hepten-4-ynylamine hydrochloride | 0.62 g | Cl.C(C)NC\C=C\C#CC(C)(C)OC
solvent | ethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | (E)-N-ethyl-N-(6-methoxy-6-methyl-2-hepten-4-ynyl)-5-formyl-2-furylmethylamine | 0.62 g | C(C)N(C\C=C\C#CC(C)(C)OC)CC=1OC(=CC1)C=O | C17H23NO3
